data/preprocessed/USPTO_50_suzuki.csv
mech_smi,rxn_idx,step_idx_retro,source,source_db,split
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1COCCO1.CSC1=NC(NC2=CC=CC=C2)=C(C=O)C(Cl)=N1.O.O=C([O-])[O-].OB(O)C1=CC=CC=C1.[K+].[K+].[Pd:2]|(1, 2)",8,6,reaction_14,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-:1])C=C1.C1=CC=C([P:2](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1COCCO1.CSC1=NC(Cl)=C(C=O)C(NC2=CC=CC=C2)=N1.O.O=C([O-])[O-].OB(O)C1=CC=CC=C1.[K+].[K+]|(2, 1)",8,5,reaction_14,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-2:3][P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1COCCO1.CSC1=N[C:1]([Cl:2])=C(C=O)C(NC2=CC=CC=C2)=N1.O.O=C([O-])[O-].OB(O)C1=CC=CC=C1.[K+].[K+]|(3, 1);((1, 2), 3)",8,4,reaction_14,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1COCCO1.CSC1=NC(NC2=CC=CC=C2)=C(C=O)[C]([Pd-2:3]([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[Cl:4])=N1.O.O=C([O-])[O-:1].OB(O)C1=CC=CC=C1.[K+:2].[K+]|(1, 3);((3, 4), 2)",8,3,reaction_14,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1COCCO1.CSC1=NC(NC2=CC=CC=C2)=C(C=O)[C]([Pd-2:3]([O]C(=O)[O-])([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=N1.O.O[B:2](O)[C:1]1=CC=CC=C1.[Cl][K].[K+]|(3, 1);((1, 2), 3)",8,2,reaction_14,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1COCCO1.CSC1=NC(NC2=CC=CC=C2)=C(C=O)[C]([Pd-2:2]([C]2=CC=CC=C2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([B:1](O)O)[O:3]C(=O)[O-])=N1.O.[Cl][K].[K+]|((2, 3), 1);((1, 2), 2)",8,1,reaction_14,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1COCCO1.CSC1=NC(NC2=CC=CC=C2)=C(C=O)[C:1]([Pd-2:2]([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:3]2=CC=CC=C2)=N1.O.O=C([O-])OB(O)O.[Cl][K].[K+]|((2, 1), 3);((3, 2), 2)",8,0,reaction_14,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P:2](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CCO.CCOC(=O)C1=CC=CC(Br)=C1.CCOC(C)=O.O.O=C([O-])[O-].OB(O)C1=CC=CC=C1OC(F)(F)F.[Na+].[Na+].[Pd:1]|(2, 1)",38,6,reaction_29,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-:1])C=C1.C1=CC=C([P:2](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CCO.CCOC(=O)C1=CC=CC(Br)=C1.CCOC(C)=O.O.O=C([O-])[O-].OB(O)C1=CC=CC=C1OC(F)(F)F.[Na+].[Na+]|(2, 1)",38,5,reaction_29,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C([P+](C2=CC=CC=C2)(C2=CC=CC=C2)[Pd-2:3][P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CCO.CCOC(=O)C1=CC=C[C:1]([Br:2])=C1.CCOC(C)=O.O.O=C([O-])[O-].OB(O)C1=CC=CC=C1OC(F)(F)F.[Na+].[Na+]|(3, 1);((1, 2), 3)",38,4,reaction_29,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CCO.CCOC(=O)C1=CC=C[C]([Pd-2:1]([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[Br:2])=C1.CCOC(C)=O.O.O=C([O-])[O-:3].OB(O)C1=CC=CC=C1OC(F)(F)F.[Na+:4].[Na+]|(3, 1);((1, 2), 4)",38,3,reaction_29,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CCO.CCOC(=O)C1=CC=C[C]([Pd-2:2]([O]C(=O)[O-])([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=C1.CCOC(C)=O.O.O[B:3](O)[C:1]1=CC=CC=C1OC(F)(F)F.[Na+].[Na][Br]|(2, 1);((1, 3), 2)",38,2,reaction_29,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CCO.CCOC(=O)C1=CC=C[C]([Pd-2:2]([C]2=CC=CC=C2OC(F)(F)F)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([B:1](O)O)[O:3]C(=O)[O-])=C1.CCOC(C)=O.O.[Na+].[Na][Br]|((2, 3), 1);((1, 2), 2)",38,1,reaction_29,USPTO_suzuki,train
"C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.C1=CC=C(P(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CC1=CC=CC=C1.CCO.CCOC(=O)C1=CC=C[C:1]([Pd-2:2]([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)([P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:3]2=CC=CC=C2OC(F)(F)F)=C1.CCOC(C)=O.O.O=C([O-])OB(O)O.[Na+].[Na][Br]|((2, 1), 3);((3, 2), 2)",38,0,reaction_29,USPTO_suzuki,train
